US05840732
Synthesis of 5-decylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]oxazolidine-2,4-dione
To a solution of 1.527 g (5.0 mmol) of 3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]oxazolidine-2,4-dione and 1.11 ml (5.0 mmol) of decanal in 20 ml of ethanol, 0.04 ml (0.5 mmol) of pyrrolidine was added, followed by refluxing for 20 hours. After the reaction mixture was cooled, the solvent was distilled off. The residue was dissolved in dichloromethane, washed with water and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, n-hexane/ethyl acetate 3/1→ethyl acetate). The resulting residue was crystallized from n-hexane to yield 0.13 g (5.8%, white crystal) of the desired product.

reactant | 3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]oxazolidine-2,4-dione | 5.0 mmol, 1.527 g | N=1C=CN2C1C=CC=C2SCCCCN2C(OCC2=O)=O | C14H15N3O3S
reactant | decanal | 5.0 mmol, 1.11 ml | C(CCCCCCCCC)=O | C10H20O
reactant | pyrrolidine | 0.5 mmol, 0.04 ml | N1CCCC1 | C4H9N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-decylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]oxazolidine-2,4-dione | C(CCCCCCCCC)=C1C(N(C(O1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C24H33N3O3S
